US05210087
9-Amino-3,4-dihydro-3-hydroxyacridin-1(2H)-one
A solution 9-amino-3,4-dihydro-3-(fluorodimethylsilyl)acridin-1(2H)-one (3.7 g) 1:1-tetrahydrofuran:methanol (70 ml), potassium fluoride (7.45 g), and sodium bicarbonate (10.7 g) was chilled in an ice/water bath, and 30% aqueous hydrogen peroxide (44 ml) was added slowly. Upon completion of the addition, the bath was removed and stirring was continued for 3 hr. The reaction mixture was poured into water (250 ml) and a little diethyl ether was added. The mixture was filtered and the filter cake was washed with water and diethyl ether to give 2.6 g (89%) of product, mp 205° C. (dec).

reactant | 9-amino-3,4-dihydro-3-(fluorodimethylsilyl)acridin-1(2H)-one | 3.7 g | NC=1C2=CC=CC=C2N=C2CC(CC(C12)=O)[Si](C)(C)F | C15H17FN2OSi
reactant | potassium fluoride | 7.45 g | [F-].[K+]
reactant | sodium bicarbonate | 10.7 g | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | 44 ml | OO | H2O2
solvent | methanol | 70 ml | CO | CH4O
product | 9-Amino-3,4-dihydro-3-hydroxyacridin-1(2H)-one | 2.6 g, 89% | NC=1C2=CC=CC=C2N=C2CC(CC(C12)=O)O | C13H12N2O2
